* OTA CMOS deux etages (Miller)
M1 a inp s 0 NMOS
M2 b inm s 0 NMOS
M3 a a vdd vdd PMOS
M4 b a vdd vdd PMOS
M5 s vb 0 0 NMOS
M6 out b vdd vdd PMOS
M7 out vb 0 0 NMOS
M8 vb vb 0 0 NMOS
I1 vdd vb 20u
CC b out 2p
.end
